US07034039B2
To a solution of (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenamide (0.14 g, 0.3 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride (0.11 g, 91.7%) as crystals.

reactant | (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)-2-propenamide | 0.3 mmol, 0.14 g | C(CCC)OC1C(N(C(C2=CC=CC=C12)=O)CC(C)C)(CNC(=O)OC(C)(C)C)/C=C/C(=O)N | C26H39N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)/C=C/C(=O)N)=O)CC(C)C | InChI=1S/C21H29N3O3.ClH/c1-4-5-10-27-20-17-11-15(7-9-19(23)25)6-8-16(17)21(26)24(13-14(2)3)18(20)12-22;/h6-9,11,14H,4-5,10,12-13,22H2,1-3H3,(H2,23,25);1H/b9-7+;
